US04188341
19.6 g (0.35 mole) of freshly distilled acrolein is added dropwise at a maximum of 50° C., with ice-cooling, to a solution of 27.8 g (0.2 mole) of N-(3-pent-2-enyl)-pyrrolidine in 50 ml of benzene. After completion of the addition, the mixture is stirred overnight at room temperature; it is subsequently heated for 2 hours at 50°-55° C. and then concentrated by evaporation. The oil remaining is dissolved in 250 ml of 20% hydrochloric acid and the solution is stirred overnight. Extraction is then performed five times with ether; the combined extracts are dried over magnesium sulphate and the ether is distilled off. The crude 2,6-dimethyl-cyclohex-2-en-1-one remaining is purified by vacuum distillation. There is obtained 14.8 g (60% of theory) of 2,6-dimethyl-cyclohex-2-en-1-one, b.p. 62°-64° C./ 10 Torr.

reactant | acrolein | C(=O)C=C | C3H4O
reactant | N-(3-pent-2-enyl)-pyrrolidine | 0.2 mole, 27.8 g | CC=C(CC)N1CCCC1 | C9H17N
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 2,6-dimethyl-cyclohex-2-en-1-one | 14.8 g, 60% | CC=1C(C(CCC1)C)=O | C8H12O
